US09382228B2
A suspension of 2-methyl-3-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)-6-nitropyridine (1.50 g, 4.82 mmol) and NH4Cl (6.00 g, 112 mmol) in MeOH (30 mL) was treated with zinc dust (3.00 g, 45.9 mmol) and heated at 40° C. for 3 h. The mixture was diluted with DCM, the solids removed via filtration, washed with MeOH/DCM and the filtrate concentrated to dryness. The residue was treated with DCM, the solids again removed via filtration and the filtrate concentrated to dryness to afford 6-methyl-5-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)pyridin-2-amine (1.02 g, 75%). 1H NMR (400 MHz, DMSO-d6): δ 8.37 (d, J=1.4 Hz, 1H), 8.26 (d, J=5.8 Hz, 1H), 7.61 (t, J=1.3 Hz, 1H), 7.28 (d, J=2.2 Hz, 1H), 7.20 (d, J=8.7 Hz, 1H), 6.60 (dd, J=5.8, 2.2 Hz, 1H), 6.34 (d, J=8.7 Hz, 1H), 5.97 (s, 2H), 2.13 (s, 3H), 2.07 (s, 3H); MS (ESI) m/z: 282.1 (M+H+).

reactant | 2-methyl-3-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)-6-nitropyridine | 4.82 mmol, 1.50 g | CC1=NC(=CC=C1OC1=CC(=NC=C1)N1C=NC(=C1)C)[N+](=O)[O-] | C15H13N5O3
reactant | NH4Cl | 112 mmol, 6.00 g | [NH4+].[Cl-]
solvent | MeOH | 30 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | zinc | 45.9 mmol, 3.00 g | [Zn] | Zn
product | 6-methyl-5-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)pyridin-2-amine | 1.02 g, 75% | CC1=C(C=CC(=N1)N)OC1=CC(=NC=C1)N1C=NC(=C1)C | C15H15N5O
